US07872014B2
To 3-[5-amino-1-(1,1-dimethylethyl)-3-methyl-1H-pyrazol-4-yl]-2,5-difluorophenol (0.050 g, 0.178 mmol) and 3-chloro-4-[(phenylmethyl)oxy]benzaldehyde (0.044 g, 0.178 mmol) was added acetic acid (1 mL). The mixture was stirred at 120° C. for 4.5 h and then concentrated in vacuo to afford a residue which was co-evaporated with EtOH (2×) to afford a film which was purified by column chromatography (ether-dichloromethane 1:20) to afford 5-{3-chloro-4-[(phenylmethyl)oxy]phenyl}-3-(1,1-dimethylethyl)-6,9-difluoro-1-methyl-3H-pyrazolo[3,4-c]isoquinolin-8-ol as a light brown foam (0.042 g, 0.083 mmol, 47% yield). 1H NMR (400 MHz, CDCl3): 7.63 (t, 1H), 7.55-7.51 (m, 2H), 7.46-7.34 (m, 5H), 7.06 (d, 1H), 6.86 (dd, 1H), 5.25 (s, 2H), 2.81 (d, 3H), 1.84 (s, 9H); MS (EI) for C28H24ClF2N3O2: 508 (MH+).

reactant | 3-[5-amino-1-(1,1-dimethylethyl)-3-methyl-1H-pyrazol-4-yl]-2,5-difluorophenol | 0.178 mmol, 0.050 g | NC1=C(C(=NN1C(C)(C)C)C)C=1C(=C(C=C(C1)F)O)F | C14H17F2N3O
reactant | 3-chloro-4-[(phenylmethyl)oxy]benzaldehyde | 0.178 mmol, 0.044 g | ClC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C14H11ClO2
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | CCO | C2H6O
product | 5-{3-chloro-4-[(phenylmethyl)oxy]phenyl}-3-(1,1-dimethylethyl)-6,9-difluoro-1-methyl-3H-pyrazolo[3,4-c]isoquinolin-8-ol | 0.083 mmol, 0.042 g, 47% yield | ClC=1C=C(C=CC1OCC1=CC=CC=C1)C1=NC2=C(C=3C(=C(C=C(C13)F)O)F)C(=NN2C(C)(C)C)C | C28H24ClF2N3O2
